US06395734B1
Tin chloride dihydrate (225 g) was added to a solution of 2,4-dinitrophenylacetic acid (22.6 g) in ethanol (450 mL). The mixture was heated at 90° C. for 10 hours. The reaction mixture was cooled and basified to pH 11 with 12M sodium hydroxide. The solids were removed by filtration and the filtrate was concentrated. The residue was treated with ethanol (300 mL). The insolubles were filtered and washed with ethanol (5×60 mL). The combined ethanol washes were evaporated and dried under vacuum to give 15 g of 6-amino-2-oxindole as a brown powder.

reactant | Tin chloride dihydrate | 225 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | 2,4-dinitrophenylacetic acid | 22.6 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)O | C8H6N2O6
reactant | sodium hydroxide | 12M | [OH-].[Na+]
solvent | ethanol | 450 mL | C(C)O | C2H6O
product | 6-amino-2-oxindole | 15 g | NC1=CC=C2CC(NC2=C1)=O | C8H8N2O
